US04734418
Ethyl 4-acetylamino-2-(4-benzylpiperazino)pyrimidine-5-carboxylate
In acetic anhydride, 1.00 g of ethyl 4-amino-2-(4-benzylpiperazino)pyrimidine-5-carboxylate (the compound synthesized in Referential Example 60) was refluxed for 1 hour. After allowing the reaction mixture to cool down, acetic anhydride was distilled off and the resulting viscous oil was purified by silica gel column chromatography to obtain 0.68 g of the above-identified compound (yield: 61%).

reactant | ethyl 4-amino-2-(4-benzylpiperazino)pyrimidine-5-carboxylate | 1.00 g | NC1=NC(=NC=C1C(=O)OCC)N1CCN(CC1)CC1=CC=CC=C1 | C18H23N5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 4-acetylamino-2-(4-benzylpiperazino)pyrimidine-5-carboxylate | 0.68 g, yield: 61% | C(C)(=O)NC1=NC(=NC=C1C(=O)OCC)N1CCN(CC1)CC1=CC=CC=C1 | C20H25N5O3
